US07109354B2
b) 2,2,2-Trifluoro-1-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethanol
To an oven-dried round bottom flask fitted with a stir bar and a rubber septum was added 1-(3-bromo-phenyl)-2,2,2-trifluoro-ethanone (560 mg, 2.2 mmol, as prepared in Example 28, step a), 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.96 mL, 6.6 mmol, Aldrich Chemical Company), (PPh3)2PdCl2 (93 mg, 0.132 mmol, Strem Chemicals, Inc., Newburyport, Mass.), and Et3N (1.8 mL, 13.2 mmol). The reaction mixture was evacuated, purged with argon, and then suspended in dioxane (16 mL). After stirring for 18 hr at 95° C., the reaction was allowed to cool and then filtered through Celite.® The filtrate was concentrated in vacuo and the residue was purified by chromatography (SiO2, flash elution: 5% EtOAc in hexanes) to give 350 mg (53%) of an oil that was used without further purification.

reactant | 1-(3-bromo-phenyl)-2,2,2-trifluoro-ethanone | BrC=1C=C(C=CC1)C(C(F)(F)F)=O | C8H4BrF3O
reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 6.6 mmol, 0.96 mL | CC1(OBOC1(C)C)C | C6H13BO2
reactant | Et3N | 13.2 mmol, 1.8 mL | CCN(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 0.132 mmol, 93 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2,2,2-Trifluoro-1-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethanol | 350 mg, 53% | FC(C(O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C14H18BF3O3
